US05011849
In an analogous manner to that described in Example 1(B). 8.9 g (33.3 mmol) of methyl 3-[(3-cyanobenzyl)oxy]benzoate were heated to reflux for 17 hours with 13.5 g (33.4 mmol) of Lawesson reagent in xylene and thereafter chromatographed on silica gel. Elution with an 8:2 and 7:3 mixture of hexane and methylene chloride yielded 7.6 g (65.8%) of O-methyl 3-[(3-cyanobenzyl)oxy]thiobenzoate as a yellow oil which gradually crystallized upon standing.

reactant | methyl 3-[(3-cyanobenzyl)oxy]benzoate | 33.3 mmol, 8.9 g | C(#N)C=1C=C(COC=2C=C(C(=O)OC)C=CC2)C=CC1 | C16H13NO3
reactant | Lawesson reagent | 33.4 mmol, 13.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | O-methyl 3-[(3-cyanobenzyl)oxy]thiobenzoate | 7.6 g, 65.8% | C(#N)C=1C=C(COC=2C=C(C(=S)OC)C=CC2)C=CC1 | C16H13NO2S
